US07807709B2
D. N-((3S*,4S*)-4-Formyl-pyrrolidin-3-ylmethyl)-N-isobutyl-benzenesulfonamide
The title compound is prepared as described above for Example 9/step E (Scheme 5) from N-((3S*,4S*)-4-Hydroxymethyl-pyrrolidin-3-ylmethyl)-N-isobutyl-benzenesulfonamide. MS (LC-MS): 325.0 [M-Boc+H]+; tR (HPLC, Waters Symmetry C18 column, 20-95% CH3CN/H2O/3.5 min, 95% CH3CN/H2O, 2 min, CH3CN and H2O containing 0.1% TFA, flow 0.6 mL/min): 4.24 min.

reactant | N-((3S*,4S*)-4-Hydroxymethyl-pyrrolidin-3-ylmethyl)-N-isobutyl-benzenesulfonamide | OC[C@H]1[C@@H](CNC1)CN(S(=O)(=O)C1=CC=CC=C1)CC(C)C | C16H26N2O3S
reactant | CH3CN H2O | CC#N.O
reactant | CH3CN | CC#N | C2H3N
solvent | H2O | O | H2O
product | N-((3S*,4S*)-4-Formyl-pyrrolidin-3-ylmethyl)-N-isobutyl-benzenesulfonamide | C(=O)[C@H]1[C@@H](CNC1)CN(S(=O)(=O)C1=CC=CC=C1)CC(C)C | C16H24N2O3S
